US05134139
A mixture of a solution of (±)-cis-2-(4-methoxyphenyl)-3-(benzyloxycarbonylmethyl)oxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (880 mg) in a mixed solvent of 10% aqueous sodium hydroxide solution (2 ml), water (15 ml) and ethanol (15 ml) is stirred at 50° C. for 30 minutes. After the completion of the reaction, ethanol is distilled off under reduced pressure. The aqueous layer is washed with ethyl acetate and acidified with acetic acid under ice-cooling, and then, saturated with ammonium sulfate. The precipitated crystal is collected by filtration, washed with water and dried to give (±)-cis-2-(4-methoxyphenyl)-3-(carboxymethyl)oxy-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (230 mg), m.p. 184°-188° C. (decomposed).

reactant | (±)-cis-2-(4-methoxyphenyl)-3-(benzyloxycarbonylmethyl)oxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 880 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OCC(=O)OCC1=CC=CC=C1)=O)CCN(C)C)C=CC=C2 | C29H32N2O5S
reactant | sodium hydroxide | 2 ml | [OH-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | (±)-cis-2-(4-methoxyphenyl)-3-(carboxymethyl)oxy-5-[2-(dimethylamino)-ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 230 mg | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OCC(=O)O)=O)CCN(C)C)C=CC=C2 | C22H26N2O5S
